US08431738B2
Finally, 2.33 g of methyl(S)-5-bromo-2-{(tert-butoxy)-N-[(tert-butyl)oxy-carbonyl]carbonylamino}-1-pentanoate was stirred in 50 ml of 4N HCl at 60° C. for 24 hours and then concentrated to obtain 1.29 g (98%) of (S)-2-amino-5-bromo-pentanoic acid hydrochloride.

reactant | methyl(S)-5-bromo-2-{(tert-butoxy)-N-[(tert-butyl)oxy-carbonyl]carbonylamino}-1-pentanoate | 2.33 g | BrCCC[C@@H](C(=O)OC)N(C(=O)C(=O)OC(C)(C)C)OC(C)(C)C | C16H28BrNO6
reactant | HCl | 4N, 50 ml | Cl | ClH
product | (S)-2-amino-5-bromo-pentanoic acid hydrochloride | 1.29 g, 98% | Cl.N[C@H](C(=O)O)CCCBr | InChI=1S/C5H10BrNO2.ClH/c6-3-1-2-4(7)5(8)9;/h4H,1-3,7H2,(H,8,9);1H/t4-;/m0./s1
